US06498196B1
Step 7: Carbonic acid 7-tert-butoxycarbonylamino-8,8-diethyl-trans-6-mercapto-5,6,7,8-tetrahydro-naphthalen-2-yl ester tert-butyl ester (F)
Thioacetic acid S-(trans-3-tert-butoxycarbonylamino-6-tert-butoxycarbonyloxy-4,4-diethyl-1,2,3,4-tetrahydro-naphthalen-2-yl) ester (234 mg, 0.47 mmol) in MeOH (5 mL) was added the sodium methoxide (54 μL, 0.95 mmol) and stirred at 0° C. for 30 min. The mixture was quenched with H2O, diluted with Et2O (50 mL), washed with H2O, HCl (10%), H2O, brine, dried over MgSO4. The residu was used without any other purification (151 mg, 71%). 1H NMR (CDCl3): 7.10-6.95 (3H, m, Har), 4.58 (1H, d, J=11.0 Hz, NH), 4.00 (1H, t, J=11 Hz, CHNH), 3.40-3.25 (2H, m), 2.98 (1H, m), 1.80-1.45 (22H, m), 0.80-0.70 (6H, m, CH3).

reactant | Thioacetic acid S-(trans-3-tert-butoxycarbonylamino-6-tert-butoxycarbonyloxy-4,4-diethyl-1,2,3,4-tetrahydro-naphthalen-2-yl) ester | 0.47 mmol, 234 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC2=CC=C(C=C2C1(CC)CC)OC(=O)OC(C)(C)C)SC(C)=O | C26H39NO6S
reactant | sodium methoxide | 0.95 mmol, 54 μL | C[O-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | Carbonic acid 7-tert-butoxycarbonylamino-8,8-diethyl-trans-6-mercapto-5,6,7,8-tetrahydro-naphthalen-2-yl ester tert-butyl ester | C(C)(C)(C)OC(OC1=CC=2C([C@H]([C@@H](CC2C=C1)S)NC(=O)OC(C)(C)C)(CC)CC)=O | C24H37NO5S
